US06979741B2
Methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester (A. G. Anderson, Jr. and R. Lok, J. Org. Chem., 1972, 37, 3953)(2.22 g, 7 mmol) and ethyl nipecotate (1.0 g, 6.37 mmol) were dissolved in dimethylformamide (3 mL) and heated at 110° C. for 1 hr. The mixture was cooled to ambient temperature, diluted with water and extracted with dichloromethane (3×15 mL). The extract was dried over anhydrous magnesium sulfate and the solvent removed under vacuum to give an impure sample of 1-(1-benzhydryl-azetidin-3-yl)-piperidine-3-carboxylic acid ethyl ester (2.91 g).

reactant | Methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
reactant | ethyl nipecotate | 6.37 mmol, 1.0 g | N1CC(C(=O)OCC)CCC1 | C8H15NO2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(1-benzhydryl-azetidin-3-yl)-piperidine-3-carboxylic acid ethyl ester | 2.91 g | C(C)OC(=O)C1CN(CCC1)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H30N2O2
